US07166598B2
To a solution of 2-[3-iodo-5-(trifluromethyl)phenyl]-4,4-dimethyl-4,5-dihydrooxazole (2.11 g) and triisopropyl borate (1.26 g) in tetrahydrofuran (21 ml) was added dropwise butyllithium (1.6 M in hexane) at −70° C. After stirring for 4 hours, the mixture was quenched with 2N hydrochloric acid and extracted with ethyl acetate. The combined extracts were washed with brine, dried over magnesium sulfate, and evaporated in vacuo to give 3-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-5-(trifluoromethyl)phenylboroic acid (1.65 g) as a yellow oil. This oil was used immediately in the next reaction without further purification because of its instability.

reactant | 2-[3-iodo-5-(trifluromethyl)phenyl]-4,4-dimethyl-4,5-dihydrooxazole | 2.11 g | IC=1C=C(C=C(C1)C(F)(F)F)C=1OCC(N1)(C)C | C12H11F3INO
reactant | triisopropyl borate | 1.26 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | butyllithium | 1.6 M | C(CCC)[Li]
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
product | 3-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-5-(trifluoromethyl)phenylboroic acid | 1.65 g | CC1(N=C(OC1)C=1C=C(C=C(C1)C(F)(F)F)OB(O)O)C | C12H13BF3NO4
